2196-01-11 10:56:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2196-1-11**] 12:00 AM
 CORDIS/INTRODUCER - START [**2196-1-11**] 12:11 AM
 ARTERIAL LINE - START [**2196-1-11**] 04:04 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-11**] 03:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-1-11**] 08:26 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-11**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 62 (55 - 78) bpm
   BP: 97/60(76) {89/56(70) - 121/75(91)} mmHg
   RR: 16 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,663 mL
                                                                  2,936 mL
   PO:
             TF:
   IVF:
                                                                     63 mL
                                                                  2,936 mL
   Blood products:
   Total out:
                                                                    430 mL
                                                                    725 mL
   Urine:
                                                                     80 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,233 mL
                                                                  2,211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.19/30/196/11/-15
   Ve: 7.5 L/min
   PaO2 / FiO2: 392
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Skin:  Cool
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   67 mg/dL
   2.6 mg/dL
   11 mEq/L
   5.5 mEq/L
   72 mg/dL
   109 mEq/L
   132 mEq/L
        [image002.jpg]
                             [**2196-1-11**]  12:23 AM
                             [**2196-1-11**]  03:55 AM
                             [**2196-1-11**]  05:18 AM
                             [**2196-1-11**]  07:17 AM
   Cr
   2.6
   TropT
   0.02
   TCO2
   11
   13
   12
   Glucose
   67
   Other labs: CK / CKMB / Troponin-T:291/34/0.02, Lactic Acid:0.9 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   [**Age over 90 **]F septic shock, renal failure with hyperkalemia, bradycardia,
   hypothermia
   //Septic shock:
   - presumed urinary source
   - cont require vasopressin/levophed
   - broad abx coverage vanc/zosyn pending cx data guidance
   - pan cx, pending
   - fluid resuscitation
   //Hypothermia
   -due to septic shock -rewarming
   //ARF:
   -presumed secondary sepsis/ATN
   -fluid resuscitation
   -bicarb
   //Bradycardia:
   -atenolol and hyperkalemia
   -still relative bradycardia
   //Hyperkalemia
   -improved
   //AMS
   -setting of sepsis
   -continue to reassess
   //Acute resp failure
   -cont require mech ventilation
   //Elevated cardiac enzymes:
   -demand ischemia in the context of sepsis
   -doubt ACS but cycle enzymes to r/o
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2196-1-11**] 12:11 AM
   16 Gauge - [**2196-1-11**] 01:43 AM
   18 Gauge - [**2196-1-11**] 01:44 AM
   Arterial Line - [**2196-1-11**] 04:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Patient is critically ill. Time spent on care : 50minutes
   Disposition:

2196-01-12 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BPs responded well to IVF boluses
   - spoke with sister and other family member who came to visit
   - started ISS for glucose in 300s
   - got kayexelate for k 5.6
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-12**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-1-11**] 08:26 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2196-1-11**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-1-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-12**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 60 (59 - 78) bpm
   BP: 114/68(86) {87/52(62) - 126/79(97)} mmHg
   RR: 16 (16 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  6,787 mL
                                                                    878 mL
   PO:
             TF:
   IVF:
                                                                  6,617 mL
                                                                    878 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    670 mL
   Urine:
                                                                  1,680 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,107 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/28/151/13/-7
   Ve: 7.7 L/min
   PaO2 / FiO2: 302
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   10.2 g/dL
   203
   2.3 mg/dL
   13 mEq/L
   4.9 mEq/L
   56 mg/dL
   108 mEq/L
   134 mEq/L
   30.3 %
   17.1 K/uL
        [image002.jpg]
                             [**2196-1-11**]  12:23 AM
                             [**2196-1-11**]  03:55 AM
                             [**2196-1-11**]  05:18 AM
                             [**2196-1-11**]  07:17 AM
                             [**2196-1-11**]  12:27 PM
                             [**2196-1-11**]  04:53 PM
                             [**2196-1-11**]  05:17 PM
                             [**2196-1-12**]  03:01 AM
                             [**2196-1-12**]  03:11 AM
                             [**2196-1-12**]  06:00 AM
   WBC
   26.0
   17.1
   Hct
   31.9
   30.3
   Plt
   198
   150
   Cr
   2.6
   2.4
   2.3
   TropT
   0.02
   0.09
   0.13
   TCO2
   11
   13
   12
   14
   15
   16
   Glucose
   67
   [**Telephone/Fax (3) 10365**]
   Other labs: PT / PTT / INR:12.8/37.9/1.1, CK / CKMB /
   Troponin-T:52/34/0.13, Lactic Acid:1.2 mmol/L, Ca++:7.1 mg/dL, Mg++:1.8
   mg/dL, PO4:5.2 mg/dL
   Fluid analysis / Other labs: pH 7.36
   pCO2 28
   pO2 151
   HCO3 16
   on AV 500/16/5/50%
   Microbiology: Sputum Culture:
   GRAM STAIN (Final [**2196-1-11**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):  NGTD
   Urine Culture from BIDN: No Growth
   Urine Culture and BCx: NGTD
   Assessment and Plan
   The patinet is a [**Age over 90 **] year old female with a history of hypertension and
   urosepsis presenting with altered mental status, found to be
   hypotensive, bradycardic, and hyperkalemic in the setting of ARF.
   #  Hypotension:  In review of recent events, seems has had hypotension
   in the setting of bradycardia, intubation induction as well as atenolol
   delayed metabolism with ARF, and likely urosepsis.  Current pressor
   requirement most likely due to ongoing sepsis.  Is currently + 11L, had
   required 3 pressors, currently weened to levophed and vasopressin (did
   not tolerate vasopressin being off.
   -- cont levophed with w/ MAP > 65; restart vasopressin as needed.
   -- follow urine output with goal > 30cc/hr
   -- hold atenolol and lisinopril
   .
   # Bradycardia:  Likely secondary to hyperkalemia w/ peaked t waves and
   junctional bradycardia.  Also, may be secondary to atentolol toxicity
   in the setting of ARF.  Wouldn
t be surprised if has underlying sick
   sinus as well given advanced age.  Currently normal sinus w/o EKG
   abnormalities.
   -- hold atenolol
   -- continue potassium manegment as below.
   .
   # Hyperkalemia: Now reversed with both acute membrane stabilization,
   temporary potassium shift, and resin binding.  Still mildly elevated,
   but improved
   -- Continue to follow closely w/ [**Hospital1 **] lytes, will give for K > 5.5
   -- Manage ARF as below.
   -- hold home potassium
   .
   # Sepsis:  UA w/ frank pus, and UA c/w UTI.  Met SIRS criteria
   hypothermia and bandemia.  Patient with 16% bandemia.  Has a history of
   UTI, resistant to cipro.  + Sputum gram stain but suspect aspiration;
   no other clear source.
   -- f/u urine culture from BIDNH, and [**Hospital1 1**] ED, NGTD
   -- blood cultures NGTD, but sputum cultures with multiple organisms on
   gram stain, f/u culture
   -- cont broad spectrum abx w/ vanc/cefepine
   -- MAPs > 65, UOP > 30cc/hr
   .
   # ARF:  Likely from volume depletion vs. secondary to pyelonephritis
   vs. ATN in the setting of hypotension (although would seem too early to
   develop.)  Encouraging that imrpoved from 3.5 to 2.3 after IVF.  FeNA
   of 0.27
   -- will trend renal function
   -- send off urine lytes
   -- avoid nephrotoxic meds
   -- hold lisinopril
   -- IVF
   .
   # Altered Mental Status: Does have anasacuria on exam, but are
   responsive b/l.  Minimally responsive to noxious stimuli, on minimal
   sedation with limited  responsiveness.
   -- ween sedation and reassess
   -- consider NCHCT
   .
   # Elevated Cardiac Markers:  Likely demand iscemia, no changes c/w
   ACS.
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL CODE
   # CONTACT:  [**Telephone/Fax (1) 10349**] [**Name (NI) 10350**] (sister) and [**Name (NI) 161**] (Brother)
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2196-1-11**] 12:11 AM
   16 Gauge - [**2196-1-11**] 01:43 AM
   18 Gauge - [**2196-1-11**] 01:44 AM
   Arterial Line - [**2196-1-11**] 04:04 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-01-12 11:01:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -weaned off dopamine
   -weaned off vasopressin but had to be restarted secondary to
   hypotension
   -cont require levophed
   -RISS started for inc BS
   -hypothermia improved but still requiring external warming
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-12**] 04:00 AM
   Infusions:
   Norepinephrine - 0.28 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2196-1-11**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-1-12**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-12**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 57 (57 - 78) bpm
   BP: 129/78(98) {54/34(41) - 129/79(301)} mmHg
   RR: 7 (7 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  6,839 mL
                                                                  1,114 mL
   PO:
             TF:
   IVF:
                                                                  6,669 mL
                                                                  1,009 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                  1,040 mL
   Urine:
                                                                  1,680 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,159 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (600 - 600) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/28/151/13/-7
   Ve: 8.6 L/min
   PaO2 / FiO2: 302
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: No spontaneous movement, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   150 K/uL
   203
   2.3 mg/dL
   13 mEq/L
   4.9 mEq/L
   56 mg/dL
   108 mEq/L
   134 mEq/L
   30.3 %
   17.1 K/uL
        [image002.jpg]
                             [**2196-1-11**]  12:23 AM
                             [**2196-1-11**]  03:55 AM
                             [**2196-1-11**]  05:18 AM
                             [**2196-1-11**]  07:17 AM
                             [**2196-1-11**]  12:27 PM
                             [**2196-1-11**]  04:53 PM
                             [**2196-1-11**]  05:17 PM
                             [**2196-1-12**]  03:01 AM
                             [**2196-1-12**]  03:11 AM
                             [**2196-1-12**]  06:00 AM
   WBC
   26.0
   17.1
   Hct
   31.9
   30.3
   Plt
   198
   150
   Cr
   2.6
   2.4
   2.3
   TropT
   0.02
   0.09
   0.13
   TCO2
   11
   13
   12
   14
   15
   16
   Glucose
   67
   [**Telephone/Fax (3) 10365**]
   Other labs: PT / PTT / INR:12.8/37.9/1.1, CK / CKMB /
   Troponin-T:52/34/0.13, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
    [**Age over 90 **]F septic shock, renal failure with hyperkalemia, bradycardia,
   hypothermia
    //Septic shock:
   - presumed urinary source
   - cont require vasopressin/levophed.  able to wean dopa off
   - broad abx coverage vanc/zosyn pending cx data guidance
   - pan cx, pending
   - fluid resuscitation
    //Hypothermia
   -due to septic shock
   -still requiring external warming
   //ARF:
   -presumed secondary sepsis/ATN
   -fluid resuscitation
    //Bradycardia:
   -atenolol and hyperkalemia
   -still relative bradycardia
   //Hyperkalemia
   -improved
    //AMS
   -setting of sepsis
   -now responding to noxious stim
    //Acute resp failure
   -cont require mech ventilation
   //Elevated cardiac enzymes:
   -demand ischemia in the context of sepsis
   -doubt ACS but cycle enzymes to r/o
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2196-1-11**] 12:11 AM
   16 Gauge - [**2196-1-11**] 01:43 AM
   18 Gauge - [**2196-1-11**] 01:44 AM
   Arterial Line - [**2196-1-11**] 04:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2196-01-13 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - rcvd albumin 25 gm x 1 with improved BP and decreased pressor
   requirement
   - mental status slightly improved; responding to tactile stimuli
   - urine with corynebacterium- repeat sent.  BIDN culture negative
   - stool ordered for c.diff
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-13**] 04:00 AM
   Infusions:
   Vasopressin - 1.5 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-1-13**] 12:04 AM
   Fentanyl - [**2196-1-13**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-13**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 96.5
C (205.7
   Tcurrent: 35.9
C (96.7
   HR: 80 (56 - 96) bpm
   BP: 102/63(77) {54/34(41) - 135/82(301)} mmHg
   RR: 10 (7 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
           Total In:
                                                                  2,161 mL
                                                                    623 mL
   PO:
           TF:
                                                                    178 mL
                                                                     21 mL
   IVF:
                                                                  1,578 mL
                                                                    277 mL
   Blood products:
                                                                    100 mL
                                                                    325 mL
   Total out:
                                                                  1,705 mL
                                                                    610 mL
   Urine:
                                                                  1,705 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    456 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 512 (118 - 770) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 10 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.29/34/146/16/-8
   Ve: 6.3 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: left eye anasarca
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, chronic venousstasis changes
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed, minimally responsive to stimulation
   Labs / Radiology
   123 K/uL
   7.9 g/dL
   165
   2.4 mg/dL
   16 mEq/L
   4.2 mEq/L
   54 mg/dL
   107 mEq/L
   134 mEq/L
   23.2 %
   15.3 K/uL
        [image002.jpg]
                             [**2196-1-11**]  04:53 PM
                             [**2196-1-11**]  05:17 PM
                             [**2196-1-12**]  03:01 AM
                             [**2196-1-12**]  03:11 AM
                             [**2196-1-12**]  06:00 AM
                             [**2196-1-12**]  12:07 PM
                             [**2196-1-12**]  02:10 PM
                             [**2196-1-12**]  02:29 PM
                             [**2196-1-12**]  06:00 PM
                             [**2196-1-13**]  06:18 AM
   WBC
   26.0
   17.1
   15.3
   Hct
   31.9
   30.3
   23.2
   Plt
   198
   150
   123
   Cr
   2.4
   2.3
   2.4
   TropT
   0.09
   0.13
   0.14
   TCO2
   15
   16
   17
   Glucose
   [**Telephone/Fax (3) 10392**]64
   136
   165
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:52/34/0.14, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:5.4 mg/dL
   Imaging: The left atrium is normal in size. The estimated right atrial
   pressure is 10-15mmHg. Left ventricular wall thicknesses and cavity
   size are normal. Regional left ventricular wall motion is normal.
   Overall left ventricular systolic function is normal (LVEF>55%). The
   right ventricular cavity is moderately dilated with moderate global
   free wall hypokinesis. The aortic valve leaflets (3) are mildly
   thickened but aortic stenosis is not present. Trace aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   Mild (1+) mitral regurgitation is seen. The left ventricular inflow
   pattern suggests impaired relaxation. There is moderate pulmonary
   artery systolic hypertension. There is no pericardial effusion.
   IMPRESSION: Moderate to severe pulmonary hypertension. Preserved left
   ventricular function. Moderately dilated and hypokinetic right
   ventricle.
   CXR [**1-12**]:
   Bedside radiograph of the chest shows an endotracheal tube which is
   terminating approximately 1 cm above the level of the carina. This tube
   could
   be further retracted by ~2-3 cm. Otherwise, the remainder of the study
   is unchanged with persistent prominence of the cardiac silhouette, and
   bibasilar
   opacities.
   Assessment and Plan
   The patinet is a [**Age over 90 **] year old female with a history of hypertension and
   urosepsis presenting with altered mental status, found to be
   hypotensive, bradycardic, and hyperkalemic in the setting of ARF.
   #  Hypotension:  In review of recent events, seems has had hypotension
   in the setting of bradycardia, intubation induction as well as atenolol
   delayed metabolism with ARF, and likely urosepsis.  Current pressor
   requirement most likely due to ongoing sepsis.  Is currently + 11L, had
   required 3 pressors, currently weened to levophed and vasopressin (did
   not tolerate vasopressin being off.
   -- cont levophed with w/ MAP > 65; restart vasopressin as needed.
   -- follow urine output with goal > 30cc/hr
   -- hold atenolol and lisinopril
   .
   # Bradycardia:  Likely secondary to hyperkalemia w/ peaked t waves and
   junctional bradycardia.  Also, may be secondary to atentolol toxicity
   in the setting of ARF.  Wouldn
t be surprised if has underlying sick
   sinus as well given advanced age.  Currently normal sinus w/o EKG
   abnormalities.
   -- hold atenolol
   -- continue potassium manegment as below.
   .
   # Hyperkalemia: Now reversed with both acute membrane stabilization,
   temporary potassium shift, and resin binding.  Still mildly elevated,
   but improved
   -- Continue to follow closely w/ [**Hospital1 **] lytes, will give for K > 5.5
   -- Manage ARF as below.
   -- hold home potassium
   .
   # Sepsis:  UA w/ frank pus, and UA c/w UTI.  Met SIRS criteria
   hypothermia and bandemia.  Patient with 16% bandemia.  Has a history of
   UTI, resistant to cipro.  + Sputum gram stain but suspect aspiration;
   no other clear source.
   -- f/u urine culture from BIDNH, and [**Hospital1 1**] ED, NGTD
   -- blood cultures NGTD, but sputum cultures with multiple organisms on
   gram stain, f/u culture
   -- cont broad spectrum abx w/ vanc/cefepine
   -- MAPs > 65, UOP > 30cc/hr
   .
   # ARF:  Likely from volume depletion vs. secondary to pyelonephritis
   vs. ATN in the setting of hypotension (although would seem too early to
   develop.)  Encouraging that imrpoved from 3.5 to 2.3 after IVF.  FeNA
   of 0.27
   -- will trend renal function
   -- send off urine lytes
   -- avoid nephrotoxic meds
   -- hold lisinopril
   -- IVF
   .
   # Altered Mental Status: Does have anasacuria on exam, but are
   responsive b/l.  Minimally responsive to noxious stimuli, on minimal
   sedation with limited  responsiveness.
   -- ween sedation and reassess
   -- consider NCHCT
   .
   # Elevated Cardiac Markers:  Likely demand iscemia, no changes c/w
   ACS.
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL CODE
   # CONTACT:  [**Telephone/Fax (1) 10349**] [**Name (NI) 10350**] (sister) and [**Name (NI) 161**] (Brother)
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2196-1-11**] 12:11 AM
   Arterial Line - [**2196-1-11**] 04:04 AM
   20 Gauge - [**2196-1-12**] 03:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-01-13 10:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2196-1-12**] 03:28 PM
 FEVER - 205.7
C - [**2196-1-12**] 04:00 PM
Albumin given
Able to decrease pressor dose
hematuria noted
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-13**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Fentanyl - [**2196-1-13**] 12:45 AM
   Famotidine (Pepcid) - [**2196-1-13**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2196-1-13**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-13**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 96.5
C (205.7
   Tcurrent: 37.2
C (99
   HR: 92 (56 - 96) bpm
   BP: 105/81(90) {70/48(56) - 135/82(104)} mmHg
   RR: 11 (7 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
           Total In:
                                                                  2,161 mL
                                                                    851 mL
   PO:
           TF:
                                                                    178 mL
                                                                     21 mL
   IVF:
                                                                  1,578 mL
                                                                    330 mL
   Blood products:
                                                                    100 mL
                                                                    500 mL
   Total out:
                                                                  1,705 mL
                                                                    845 mL
   Urine:
                                                                  1,705 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    456 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 512 (118 - 770) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.29/34/146/17/-8
   Ve: 6.3 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Noxious stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   123 K/uL
   108 mg/dL
   2.3 mg/dL
   17 mEq/L
   3.8 mEq/L
   53 mg/dL
   107 mEq/L
   135 mEq/L
   23.2 %
   15.3 K/uL
        [image002.jpg]
                             [**2196-1-11**]  04:53 PM
                             [**2196-1-11**]  05:17 PM
                             [**2196-1-12**]  03:01 AM
                             [**2196-1-12**]  03:11 AM
                             [**2196-1-12**]  06:00 AM
                             [**2196-1-12**]  12:07 PM
                             [**2196-1-12**]  02:10 PM
                             [**2196-1-12**]  02:29 PM
                             [**2196-1-12**]  06:00 PM
                             [**2196-1-13**]  06:18 AM
   WBC
   26.0
   17.1
   15.3
   Hct
   31.9
   30.3
   23.2
   Plt
   198
   150
   123
   Cr
   2.4
   2.3
   2.4
   2.3
   TropT
   0.09
   0.13
   0.14
   TCO2
   15
   16
   17
   Glucose
   [**Telephone/Fax (3) 10392**]64
   136
   165
   108
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:52/34/0.14, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
    90F septic shock presented with sepsis, renal failure with
   hyperkalemia, bradycardia, hypothermia.
    //Septic shock:
   - still with pressor requirement
   - presumed urinary source
   - cont require vasopressin/levophed.  able to wean dopa off
   - broad abx coverage vanc/zosyn pending cx data guidance
   - pan cx, pending
    //Hypothermia
   -now resolved
   //ARF:
   -presumed secondary sepsis/ATN
   -fluid resuscitation
    //Bradycardia:
   -improved
   //Hyperkalemia
   -improved
   //Hematuria
   -new
 doubt source of hct drop
   -foley trauma most likely also possible UTI though delayed for that
     //AMS
   -setting of sepsis
   -agitation/confusion earlier today with [**Month (only) 202**] in sedation
    //Acute resp failure
   -RSBI 17
   -still on pressors, confusion
   -underlying met acidosis presenting a greater vent demand for
   compensatory resp alkalosis -- is resonding less than would expect
   given pH.
   //Elevated cardiac enzymes:
   -CK/MB positive - NSTEMI in setting of demand ischemia / hypotension
    Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2196-1-11**] 12:11 AM
   Arterial Line - [**2196-1-11**] 04:04 AM
   20 Gauge - [**2196-1-12**] 03:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2196-01-14 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Pts hct stable, so held off on pelvic CT
   -given one unit of PRBC, and making progress in weening pressors
   -Afternoon RSBI of 32 w/ Vt of 5.  Decided not to extubate, which was
   good because started developing sloww RR of 6, and RT swichted to MMV.
   - discussed code status at length, now DNR.  If we are going to
   extubate, will discuss overall progrosis in order to address if will be
   DNI.
   - RSBI this am is 21.  Much more responsive, so may be worth extubation
   attempt.
 PICC LINE - START [**2196-1-13**] 02:00 PM
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-14**] 04:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-1-13**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2196-1-13**] 04:00 PM
   Fentanyl - [**2196-1-13**] 06:00 PM
   Midazolam (Versed) - [**2196-1-13**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-14**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 54 (52 - 94) bpm
   BP: 133/87(105) {74/51(59) - 165/125(130)} mmHg
   RR: 11 (7 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  1,494 mL
                                                                    239 mL
   PO:
             TF:
                                                                     21 mL
   IVF:
                                                                    873 mL
                                                                    239 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                  1,793 mL
                                                                    700 mL
   Urine:
                                                                  1,793 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -299 mL
                                                                   -461 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 600 (351 - 699) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.36/35/147/19/-4
   Ve: 5.4 L/min
   PaO2 / FiO2: 367
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   107 K/uL
   8.7 g/dL
   99 mg/dL
   2.1 mg/dL
   19 mEq/L
   3.2 mEq/L
   50 mg/dL
   110 mEq/L
   138 mEq/L
   26.1 %
   11.9 K/uL
        [image002.jpg]
                             [**2196-1-12**]  06:00 AM
                             [**2196-1-12**]  12:07 PM
                             [**2196-1-12**]  02:10 PM
                             [**2196-1-12**]  02:29 PM
                             [**2196-1-12**]  06:00 PM
                             [**2196-1-13**]  06:18 AM
                             [**2196-1-13**]  09:47 AM
                             [**2196-1-13**]  03:53 PM
                             [**2196-1-14**]  06:06 AM
                             [**2196-1-14**]  06:12 AM
   WBC
   15.3
   11.9
   Hct
   23.2
   23.2
   21.9
   26.1
   Plt
   123
   107
   Cr
   2.4
   2.3
   2.1
   TropT
   0.14
   TCO2
   17
   21
   Glucose
   [**Telephone/Fax (3) 10405**]65
   108
   99
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:52/34/0.14, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old female with a history of hypertension and urosepsis
   presenting with altered mental status, found to be hypotensive,
   bradycardic, and hyperkalemic in the setting of ARF.
   #  Hypotension:  In review of recent events, seems has had hypotension
   in the setting of bradycardia, intubation induction as well as atenolol
   delayed metabolism with [**Last Name (un) 2406**], and likely urosepsis.  Is currently + 11L,
   had required 3 pressors, currently only on levophed
   -- cont levophed with w/ MAP > 60; restart vasopressin as needed.
   -- follow urine output with goal > 30cc/hr
   -- hold atenolol and lisinopril
   # Sepsis:  UA c/w UTI.  Met SIRS criteria hypothermia and bandemia.
   Patient with 16% bandemia.  Has a history of UTI, resistant to cipro.
   + Sputum gram stain but suspect aspiration; no other clear source.
   -- f/u urine culture from BIDNH, and [**Hospital1 1**] ED, - corynebacterium in
   urine here but likely contaminant
   -- blood cultures NGTD, but sputum cultures with multiple organisms on
   gram stain, f/u culture
   -- cont broad spectrum abx w/ vanc/cefepime
   -- MAPs > 60, UOP > 30cc/hr
   # Bradycardia:  Likely secondary to hyperkalemia w/ peaked t waves and
   junctional bradycardia.  Also, may be secondary to atentolol toxicity
   in the setting of [**Last Name (un) 2406**].  Wouldn
t be surprised if has underlying sick
   sinus as well given advanced age.  Currently normal sinus w/o EKG
   abnormalities.
   -- hold atenolol
   -- continue potassium manegment as below.
   # Hyperkalemia: Now reversed with both acute membrane stabilization,
   temporary potassium shift, and resin binding.  Still mildly elevated,
   but improved
   -- Continue to follow closely w/ [**Hospital1 **] lytes, will give for K > 5.5
   -- Manage ARF as below.
   -- hold home potassium
   # [**Last Name (un) 2406**]:  Likely from volume depletion vs. secondary to pyelonephritis
   vs. ATN in the setting of hypotension (although would seem too early to
   develop.  FeNA of 0.27.  Continues to improve
   -- renally dose meds
   -- avoid nephrotoxic meds
   -- hold lisinopril
   -- IVF/albumin PRN
   # Altered Mental Status: Does have anasocoria on exam, but are
   responsive b/l.  more awake today;
   -- cont to wean sedation as tolerated
   -- hold off on imaging at this point
   # Elevated Cardiac Markers:  Likely demand iscemia, no changes c/w ACS.
   -- ECHO without any wall motion abnormalities; normal EF
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACIDOSIS, METABOLIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2196-1-11**] 12:11 AM
   Arterial Line - [**2196-1-11**] 04:04 AM
   20 Gauge - [**2196-1-12**] 03:21 PM
   PICC Line - [**2196-1-13**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2196-01-14 10:39:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2196-1-13**] 02:00 PM
unit pRBC
extubated
weaned pressors
                          History obtained from [**Hospital 31**] Medical records
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-14**] 04:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2196-1-13**] 06:00 PM
   Midazolam (Versed) - [**2196-1-13**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-1-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-14**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 66 (52 - 94) bpm
   BP: 125/85(102) {74/51(59) - 165/100(127)} mmHg
   RR: 10 (7 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,494 mL
                                                                    386 mL
   PO:
             TF:
                                                                     21 mL
   IVF:
                                                                    873 mL
                                                                    386 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                  1,793 mL
                                                                    940 mL
   Urine:
                                                                  1,793 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -299 mL
                                                                   -554 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 600 (351 - 699) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.36/35/147/19/-4
   Ve: 5.4 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   107 K/uL
   99 mg/dL
   2.1 mg/dL
   19 mEq/L
   3.2 mEq/L
   50 mg/dL
   110 mEq/L
   138 mEq/L
   26.1 %
   11.9 K/uL
        [image002.jpg]
                             [**2196-1-12**]  06:00 AM
                             [**2196-1-12**]  12:07 PM
                             [**2196-1-12**]  02:10 PM
                             [**2196-1-12**]  02:29 PM
                             [**2196-1-12**]  06:00 PM
                             [**2196-1-13**]  06:18 AM
                             [**2196-1-13**]  09:47 AM
                             [**2196-1-13**]  03:53 PM
                             [**2196-1-14**]  06:06 AM
                             [**2196-1-14**]  06:12 AM
   WBC
   15.3
   11.9
   Hct
   23.2
   23.2
   21.9
   26.1
   Plt
   123
   107
   Cr
   2.4
   2.3
   2.1
   TropT
   0.14
   TCO2
   17
   21
   Glucose
   [**Telephone/Fax (3) 10405**]65
   108
   99
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:52/34/0.14, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   [**Age over 90 **]F septic shock presented with sepsis, renal failure with
   hyperkalemia, bradycardia, hypothermia.
    //Septic shock:
   - able to wean pressors
   - presumed urinary source
   - broad abx coverage vanc/zosyn pending cx data guidance
   - pan cx, pending
    //Hypothermia
   -resolved
   //ARF:
   -presumed secondary sepsis/ATN
   -creat down to 2.1 but still above baseline of 1.0
    //Bradycardia:
   -improved
   //Hyperkalemia
   -improved
   //Hematuria
   -foley trauma most likely also possible UTI though delayed for that
     //AMS
   -setting of sepsis
   -clear now. answer questions, interacting
    //Acute resp failure
   -extubated successfully
    //Elevated cardiac enzymes:
   -CK/MB positive - NSTEMI in setting of demand ischemia / hypotension
    Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2196-1-11**] 12:11 AM
   Arterial Line - [**2196-1-11**] 04:04 AM
   20 Gauge - [**2196-1-12**] 03:21 PM
   PICC Line - [**2196-1-13**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2196-01-15 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - failed s&s, npo, will try again tomorrow
   - had continued hematuria per nursing, hct stable, no clots
   - went into afib with rvr to 130s around 3 a.m. -> dilt 10 iv x 2
 INVASIVE VENTILATION - STOP [**2196-1-14**] 09:00 AM
 CORDIS/INTRODUCER - STOP [**2196-1-14**] 11:41 AM
 ARTERIAL LINE - STOP [**2196-1-14**] 05:54 PM
 ARTERIAL LINE - START [**2196-1-14**] 06:00 PM
 EKG - At [**2196-1-15**] 01:30 AM
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2196-1-14**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-15**] 04:30 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-1-15**] 12:00 AM
   Diltiazem - [**2196-1-15**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-15**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.8
C (96.5
   HR: 108 (57 - 133) bpm
   BP: 91/67(77) {74/44(54) - 131/86(104)} mmHg
   RR: 15 (9 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,345 mL
                                                                    347 mL
   PO:
             TF:
   IVF:
                                                                    970 mL
                                                                    347 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,100 mL
                                                                    260 mL
   Urine:
                                                                  2,100 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -755 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   Gen: elderly female, NAD
   CV: irregularly irregular, tachycardic
   Lungs: few coarse scattered BS
   Abd: soft, NT, normal BS
   Ext: 2+ edema
   Neuro: A/O x 3. moving all extremities
   Labs / Radiology
   80 K/uL
   8.8 g/dL
   94 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.4 mEq/L
   47 mg/dL
   112 mEq/L
   140 mEq/L
   25.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2196-1-12**]  02:10 PM
                             [**2196-1-12**]  02:29 PM
                             [**2196-1-12**]  06:00 PM
                             [**2196-1-13**]  06:18 AM
                             [**2196-1-13**]  09:47 AM
                             [**2196-1-13**]  03:53 PM
                             [**2196-1-14**]  06:06 AM
                             [**2196-1-14**]  06:12 AM
                             [**2196-1-14**]  04:11 PM
                             [**2196-1-15**]  01:29 AM
   WBC
   15.3
   11.9
   9.6
   Hct
   23.2
   23.2
   21.9
   26.1
   25.1
   25.4
   Plt
   123
   107
   80
   Cr
   2.4
   2.3
   2.1
   2.0
   TropT
   0.14
   0.15
   TCO2
   17
   21
   Glucose
   136
   165
   108
   99
   94
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:18/34/0.15, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old female with a history of hypertension and urosepsis
   presenting with altered mental status, found to be hypotensive,
   bradycardic, and hyperkalemic in the setting of ARF.
   # Sepsis:  UA c/w UTI.  Met SIRS criteria hypothermia and bandemia and
   has cornybacterium in urine.   No other culture data.
   -- f/u urine culture from BIDNH, and [**Hospital1 1**] ED, - corynebacterium in
   urine here but likely contaminant
   -- blood cultures NGTD, but sputum cultures with multiple organisms on
   gram stain, f/u culture
   -- cont broad spectrum abx w/ vanc/zosyn
 will complete course on [**1-17**]
   -- MAPs > 60, UOP > 30cc/hr
   -- wean levophed and transition to neo if needed for MAP>60
   -- follow urine output with goal > 30cc/hr
   -- hold atenolol and Lisinopril
   #Respiratory failure:  Intubated in the setting of sepsis and for
   airway protection. Extubated and maintained good O2 sats on nasal
   cannula
   - continue to follow respiratory status
   # Afib with RVR: given dilt with some control; BPs remained stable
   - will give dilt 30 mg QID and uptitrate as tolerated
   - try to wean levophed, can use neosynephrine for BP control
   - dilt 10 mg IV PRN for HR>130
   - may consider amiodarone if no improvement
   - no anticoagulation at this time
   # Bradycardia:  Initially an issue.  Likely secondary to hyperkalemia
   w/ peaked t waves and junctional bradycardia.  Also, may be secondary
   to atentolol toxicity in the setting of [**Last Name (un) 2406**].  Wouldn
t be surprised if
   has underlying sick sinus as well given advanced age.
   -- hold atenolol
   -- continue potassium management as below.
   # Hyperkalemia: improved
   # [**Last Name (un) 2406**]:  Likely from volume depletion vs. secondary to pyelonephritis
   vs. ATN in the setting of hypotension (although would seem too early to
   develop.  FeNA of 0.27.  Continues to improve
   -- renally dose meds
   -- avoid nephrotoxic meds
   -- hold lisinopril
   -- IVF/albumin PRN
   # NSTEMI:  Likely demand ischemia, no changes c/w ACS.
   -- ECHO without any wall motion abnormalities; normal EF
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACIDOSIS, METABOLIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-1-12**] 03:21 PM
   PICC Line - [**2196-1-13**] 02:00 PM
   Arterial Line - [**2196-1-14**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2196-01-15 10:42:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis, afib RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2196-1-14**] 09:00 AM
 CORDIS/INTRODUCER - STOP [**2196-1-14**] 11:41 AM
 ARTERIAL LINE - STOP [**2196-1-14**] 05:54 PM
 ARTERIAL LINE - START [**2196-1-14**] 06:00 PM
 EKG - At [**2196-1-15**] 01:30 AM
 afib with RVR overnight
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2196-1-14**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-15**] 04:30 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-1-15**] 08:00 AM
   Diltiazem - [**2196-1-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-15**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.2
C (95.4
   HR: 116 (57 - 133) bpm
   BP: 91/65(71) {76/43(51) - 98/65(72)} mmHg
   RR: 11 (9 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,345 mL
                                                                    445 mL
   PO:
             TF:
   IVF:
                                                                    970 mL
                                                                    445 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,100 mL
                                                                    390 mL
   Urine:
                                                                  2,100 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -755 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   80 K/uL
   94 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.4 mEq/L
   47 mg/dL
   112 mEq/L
   140 mEq/L
   25.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2196-1-12**]  02:10 PM
                             [**2196-1-12**]  02:29 PM
                             [**2196-1-12**]  06:00 PM
                             [**2196-1-13**]  06:18 AM
                             [**2196-1-13**]  09:47 AM
                             [**2196-1-13**]  03:53 PM
                             [**2196-1-14**]  06:06 AM
                             [**2196-1-14**]  06:12 AM
                             [**2196-1-14**]  04:11 PM
                             [**2196-1-15**]  01:29 AM
   WBC
   15.3
   11.9
   9.6
   Hct
   23.2
   23.2
   21.9
   26.1
   25.1
   25.4
   Plt
   123
   107
   80
   Cr
   2.4
   2.3
   2.1
   2.0
   TropT
   0.14
   0.15
   TCO2
   17
   21
   Glucose
   136
   165
   108
   99
   94
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:18/34/0.15, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   [**Age over 90 **]F septic shock presented with sepsis, renal failure with
   hyperkalemia, bradycardia, hypothermia.
    //Septic shock:
   - still requiring low dose levo
   - presumed urinary source
   - broad abx coverage vanc/zosyn pending cx data guidance
   - pan cx, pending
    //Hypothermia
   -resolved
   //ARF:
   -presumed secondary sepsis/ATN
   -creat down to 2.0 but still above prior baseline of 1.0 - ? new
   baseline
   -holding ACE inhibitor
    //Afib/RVR
   -tolerating reasonably well - no worsening of hypotension
   -? if levophed contributing.  Change pressors over to neo.
   -rx amiodarone
   //Hyperkalemia
   -improved
   //Hematuria
   -foley trauma most likely also possible UTI though delayed for that
     //AMS
   -in setting of sepsis
   -clear now. answer questions, interacting
    //Acute resp failure
   -extubated successfully
    //Elevated cardiac enzymes:
   -CK/MB positive - NSTEMI in setting of demand ischemia / hypotension
    Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-1-12**] 03:21 PM
   PICC Line - [**2196-1-13**] 02:00 PM
   Arterial Line - [**2196-1-14**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  35 minutes
   Patient is critically ill with hypotension requiring pressors and
   afib/rvr

2196-01-16 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - weaned levophed to off, but had to go on neo b/c MAPs dropped below
   the 60s
   - continued to have RVR; HR anywhere from 100-140s
   - attempted lopressor 5 mg IV x 2 without much effect
   - uptitrated po dilt to 60 QID and received 10 mg IV boluses for
   tachycardia
   - did not start amiodarone, but possibly next step
   - patient was in chair for part of the day
   - further code discussion with patient- now definitely DNR/DNI
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2196-1-14**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-16**] 04:30 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2196-1-15**] 06:25 PM
   Heparin Sodium (Prophylaxis) - [**2196-1-15**] 08:45 PM
   Diltiazem - [**2196-1-16**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-16**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 108 (107 - 136) bpm
   BP: 101/74(83) {81/58(67) - 114/94(100)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  2,126 mL
                                                                    244 mL
   PO:
             TF:
   IVF:
                                                                  1,126 mL
                                                                    244 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    945 mL
                                                                    255 mL
   Urine:
                                                                    945 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,181 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   8.1 g/dL
   106 mg/dL
   2.0 mg/dL
   17 mEq/L
   4.0 mEq/L
   43 mg/dL
   113 mEq/L
   142 mEq/L
   23.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2196-1-12**]  02:29 PM
                             [**2196-1-12**]  06:00 PM
                             [**2196-1-13**]  06:18 AM
                             [**2196-1-13**]  09:47 AM
                             [**2196-1-13**]  03:53 PM
                             [**2196-1-14**]  06:06 AM
                             [**2196-1-14**]  06:12 AM
                             [**2196-1-14**]  04:11 PM
                             [**2196-1-15**]  01:29 AM
                             [**2196-1-16**]  05:13 AM
   WBC
   15.3
   11.9
   9.6
   11.5
   Hct
   23.2
   23.2
   21.9
   26.1
   25.1
   25.4
   23.7
   Plt
   123
   107
   80
   105
   Cr
   2.3
   2.1
   2.0
   2.0
   TropT
   0.15
   TCO2
   17
   21
   Glucose
   165
   108
   99
   94
   106
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:18/34/0.15, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old female with a history of hypertension and urosepsis
   presenting with altered mental status, found to be hypotensive,
   bradycardic, and hyperkalemic in the setting of ARF.
   # Sepsis:  UA c/w UTI.  Met SIRS criteria hypothermia and bandemia and
   has cornybacterium in urine.   No other culture data.
   -- f/u urine culture from BIDNH, and [**Hospital1 1**] ED, - corynebacterium in
   urine here but likely contaminant
   -- blood cultures NGTD, but sputum cultures with multiple organisms on
   gram stain, f/u culture
   -- cont broad spectrum abx w/ vanc/zosyn
 will complete course on [**1-17**]
   -- MAPs > 60, UOP > 30cc/hr
   -- wean levophed and transition to neo if needed for MAP>60
   -- follow urine output with goal > 30cc/hr
   -- hold atenolol and Lisinopril
   #Respiratory failure:  Intubated in the setting of sepsis and for
   airway protection.
   - extubated today
   - continue to follow respiratory status
   # Bradycardia:  Likely secondary to hyperkalemia w/ peaked t waves and
   junctional bradycardia.  Also, may be secondary to atentolol toxicity
   in the setting of [**Last Name (un) 2406**].  Wouldn
t be surprised if has underlying sick
   sinus as well given advanced age.  Currently normal sinus w/o EKG
   abnormalities.
   -- hold atenolol
   -- continue potassium management as below.
   # Hyperkalemia: Now reversed with both acute membrane stabilization,
   temporary potassium shift, and resin binding.  Still mildly elevated,
   but improved
   -- Continue to follow closely w/ [**Hospital1 **] lytes, will give for K > 5.5
   -- Manage ARF as below.
   -- hold home potassium
   # [**Last Name (un) 2406**]:  Likely from volume depletion vs. secondary to pyelonephritis
   vs. ATN in the setting of hypotension (although would seem too early to
   develop.  FeNA of 0.27.  Continues to improve
   -- renally dose meds
   -- avoid nephrotoxic meds
   -- hold lisinopril
   -- IVF/albumin PRN
   # NSTEMI:  Likely demand iscemia, no changes c/w ACS.
   -- ECHO without any wall motion abnormalities; normal EF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-1-12**] 03:21 PM
   PICC Line - [**2196-1-13**] 02:00 PM
   Arterial Line - [**2196-1-14**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-01-16 10:43:00 Physician Attending Progress Note
Chief Complaint: septic [** 1613**]
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: [**Age over 90 **] yo woman admitted [**2196-1-10**] with acute renal failure and
   hyperkalemia with EKG changes, found to have septic [**Month/Day/Year 1613**] due to likely
   urinary source.  Extubated but still on low dose phenylephrine in
   setting of atrial fibrillation with rapid ventricular response.
   24 Hour Events:
   -Family meeting, now DNR/DNI
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2196-1-14**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-16**] 04:30 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2196-1-15**] 06:25 PM
   Diltiazem - [**2196-1-16**] 05:30 AM
   Heparin Sodium (Prophylaxis) - [**2196-1-16**] 08:09 AM
   Other medications:
   Albumin 25%
   Diltiazem 60mg QID
   Flowsheet Data as of  [**2196-1-16**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.1
C (95.1
   HR: 93 (91 - 136) bpm
   BP: 107/76(87) {80/52(62) - 114/97(102)} mmHg
   RR: 16 (12 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
           Total In:
                                                                  2,126 mL
                                                                    573 mL
   PO:
           120 mL
   TF:
   IVF:
                                                                  1,126 mL
                                                                    300 mL
   Blood products:
                                                                  1,000 mL
                                                                    154 mL
   Total out:
                                                                    945 mL
                                                                    435 mL
   Urine:
                                                                    945 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,181 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   105 K/uL
   106 mg/dL
   2.0 mg/dL
   17 mEq/L
   4.0 mEq/L
   43 mg/dL
   113 mEq/L
   142 mEq/L
   23.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2196-1-12**]  02:29 PM
                             [**2196-1-12**]  06:00 PM
                             [**2196-1-13**]  06:18 AM
                             [**2196-1-13**]  09:47 AM
                             [**2196-1-13**]  03:53 PM
                             [**2196-1-14**]  06:06 AM
                             [**2196-1-14**]  06:12 AM
                             [**2196-1-14**]  04:11 PM
                             [**2196-1-15**]  01:29 AM
                             [**2196-1-16**]  05:13 AM
   WBC
   15.3
   11.9
   9.6
   11.5
   Hct
   23.2
   23.2
   21.9
   26.1
   25.1
   25.4
   23.7
   Plt
   123
   107
   80
   105
   Cr
   2.3
   2.1
   2.0
   2.0
   TropT
   0.15
   TCO2
   17
   21
   Glucose
   165
   108
   99
   94
   106
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:18/34/0.15, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Improved septic [**Year (4 digits) 1613**], unclear microbe but h/o urosepsis and presented
   with UTI. Successfully extubated. Continues on low dose neo. Will
   continue to wean pressors as tolerated.
   Atrial fibrillation with RVR
   -on diltiazem 60 q6hr for rate control  but still requiring
   neosynephrine
   -will stop diltiazem and use amiodarone for rate control
   -titrate pressors to MAP 60
   Septic [**Year (4 digits) 1613**] with presumed urinary source
   -on day [**6-6**] of vancomycin and zosyn
   -all cultures negative here
   -not clear component of intravascular depletion, if no increase in BP
   to volume challenge will hold on further fluid challenges
   Acute on chronic renal failure
   -likely component of ATN given septic [**Last Name (LF) 1613**], [**First Name3 (LF) 116**] continue to trend Cr
   -renally dose all medications
   ICU Care
   Nutrition: speech and swallow following
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-1-12**] 03:21 PM
   PICC Line - [**2196-1-13**] 02:00 PM
   Arterial Line - [**2196-1-14**] 06:00 PM
   Prophylaxis:
   DVT:heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :
   Total time spent: 30 minutes.
   Critically ill.

2196-01-17 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'd PO dilt and loaded with amioderone; broke after a few hours.
   Decided not to order for continued load.
   - Will with intermittent hypotension, requiring pressors on and off.
   Neo off since MN.
   - + for c.diff, started on IV flagyl
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2196-1-14**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-17**] 04:00 AM
   Metronidazole - [**2196-1-17**] 06:30 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2196-1-16**] 12:15 PM
   Heparin Sodium (Prophylaxis) - [**2196-1-16**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-17**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.3
C (95.6
   HR: 56 (56 - 116) bpm
   BP: 99/65(77) {85/57(68) - 118/95(349)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  2,548 mL
                                                                    380 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    948 mL
                                                                    380 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    935 mL
                                                                    205 mL
   Urine:
                                                                    935 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,613 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   2/3 up lung fields)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   121 K/uL
   7.2 g/dL
   92 mg/dL
   2.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   40 mg/dL
   114 mEq/L
   144 mEq/L
   21.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2196-1-12**]  06:00 PM
                             [**2196-1-13**]  06:18 AM
                             [**2196-1-13**]  09:47 AM
                             [**2196-1-13**]  03:53 PM
                             [**2196-1-14**]  06:06 AM
                             [**2196-1-14**]  06:12 AM
                             [**2196-1-14**]  04:11 PM
                             [**2196-1-15**]  01:29 AM
                             [**2196-1-16**]  05:13 AM
                             [**2196-1-17**]  04:25 AM
   WBC
   15.3
   11.9
   9.6
   11.5
   9.5
   Hct
   23.2
   23.2
   21.9
   26.1
   25.1
   25.4
   23.7
   21.6
   Plt
   123
   107
   80
   105
   121
   Cr
   2.3
   2.1
   2.0
   2.0
   2.0
   TropT
   0.15
   TCO2
   21
   Glucose
   165
   108
   99
   94
   106
   92
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:18/34/0.15, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Microbiology: FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA.
   Assessment and Plan
   [**Age over 90 **] year old female with a history of hypertension and urosepsis
   presenting with altered mental status, found to be hypotensive,
   bradycardic, and hyperkalemic in the setting of ARF.
   # Sepsis:  UA c/w UTI.  Met SIRS criteria hypothermia and bandemia and
   has cornybacterium in urine.   No other culture data.
   -- f/u urine culture from BIDNH, and [**Hospital1 1**] ED, - corynebacterium in
   urine here but likely contaminant
   -- blood cultures NGTD, but sputum cultures with multiple organisms on
   gram stain, f/u culture
   -- cont broad spectrum abx w/ vanc/zosyn
 will complete course today
   -- MAPs > 60
   -- wean levophed and transition to neo if needed for MAP>60; has been
   off pressors since MN
   -- hold atenolol and Lisinopril
   #Respiratory failure:  Intubated in the setting of sepsis and for
   airway protection.
   - extubated since wednesday
   - continue to follow respiratory status
   # Bradycardia:  Likely secondary to hyperkalemia w/ peaked t waves and
   junctional bradycardia.  Also, may be secondary to atentolol toxicity
   in the setting of [**Last Name (un) 2406**].  Wouldn
t be surprised if has underlying sick
   sinus as well given advanced age.  Currently normal sinus w/o EKG
   abnormalities.
   -- hold atenolol
   -- continue potassium management as below.
   # Hyperkalemia: Now reversed with both acute membrane stabilization,
   temporary potassium shift, and resin binding.  Still mildly elevated,
   but improved
   -- Continue to follow closely w/ [**Hospital1 **] lytes, will give for K > 5.5
   -- Manage ARF as below.
   -- hold home potassium
   # [**Last Name (un) 2406**]:  Likely from volume depletion vs. secondary to pyelonephritis
   vs. ATN in the setting of hypotension (although would seem too early to
   develop.  FeNA of 0.27.  suspect some element of fluid overload vs. new
   baseline.  Will diurese w/ lasix gtt today.
   -- renally dose meds
   -- avoid nephrotoxic meds
   -- hold lisinopril
   -- IVF/albumin PRN
   # Fluid Overload: pulmonary edema and lower extremity swelling on exam;
   lasix  gtt started, with goal of neg 1L with gentle diuresis.
   # C.Diff:  + for c.diff, starting iv flagyl for 14d course
   # NSTEMI:  Likely demand iscemia, no changes c/w ACS.
   -- ECHO without any wall motion abnormalities; normal EF
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2196-1-13**] 02:00 PM
   Arterial Line - [**2196-1-14**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Discussed further history of present illness with patient.  ROS
   negative for fevers, chills, chest pain, dyspnea, nausea, vomiting, and
   diarrhea.  Social history significant for absence of tobacco or
   alcohol.  Patient is retired and lives with her sister.  Family history
   significant for absence of CAD, DM, stroke, and cancer.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4097**], MD
   on:[**2196-1-17**] 15:39 ------

2196-01-17 09:08:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan. Please see resident note
   for updated PMH, SH, FH, ROS.
   HPI: [**Age over 90 **] yo woman admitted with septic shock requiring 3 pressors and
   presumed urinary source. Hospital course complicated by rapid atrial
   fibrillation.
   24 Hour Events:
   -C. difficile positive, started on IV metronidazole as patient with
   difficulty taking oral medications
   -amiodarone load started, patient converted into NSR.  Amiodarone not
   continued
   -phenylephrine drip off at midnight
   -lasix drip started for decreased urine output
   -coughing when taking apple sauce, made npo for now
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2196-1-14**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-17**] 04:00 AM
   Metronidazole - [**2196-1-17**] 06:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-1-16**] 08:00 PM
   Other medications:
   Zosyn
   RISS
   Flagyl 500IV q8hr
   Neutraphos [**Hospital1 **]
   Lasix drip@2mg/hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-17**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35
C (95
   HR: 66 (56 - 116) bpm
   BP: 116/73(90) {88/57(68) - 132/122(349)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,548 mL
                                                                    517 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    948 mL
                                                                    397 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    935 mL
                                                                    295 mL
   Urine:
                                                                    935 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,613 mL
                                                                    222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L NC
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (2+ bilateral LE edema, symmetrical
   Respiratory / Chest: (Expansion: Symmetric), Crackles at bases
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: alert and oriented x3
   Labs / Radiology
   7.2 g/dL
   121 K/uL
   92 mg/dL
   2.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   40 mg/dL
   114 mEq/L
   144 mEq/L
   21.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2196-1-12**]  06:00 PM
                             [**2196-1-13**]  06:18 AM
                             [**2196-1-13**]  09:47 AM
                             [**2196-1-13**]  03:53 PM
                             [**2196-1-14**]  06:06 AM
                             [**2196-1-14**]  06:12 AM
                             [**2196-1-14**]  04:11 PM
                             [**2196-1-15**]  01:29 AM
                             [**2196-1-16**]  05:13 AM
                             [**2196-1-17**]  04:25 AM
   WBC
   15.3
   11.9
   9.6
   11.5
   9.5
   Hct
   23.2
   23.2
   21.9
   26.1
   25.1
   25.4
   23.7
   21.6
   Plt
   123
   107
   80
   105
   121
   Cr
   2.3
   2.1
   2.0
   2.0
   2.0
   TropT
   0.15
   TCO2
   21
   Glucose
   165
   108
   99
   94
   106
   92
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:18/34/0.15, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Improved septic shock, unclear microbe but h/o urosepsis and presented
   with UTI. Successfully extubated. Phenylephrine drip weaned off and now
   in NSR after amiodarone load
   Septic shock with presumed urinary source
   -off pressors now, goal MAP>60.  A-line with poor tracing
   -on lasix drip for total volume overload for goal net out 100cc/hr,
   will start 25% albumin 25gm q8hr
   -finishing day 7 of vancomycin and zosyn today
   Atrial fibrillation with RVR, now in NSR
   -given patient
s age and now NSR will not continue amiodarone
   C. difficile colitis
   -abdominal exam benign
   -flagyl TID
   Anemia with dropping Hct
   -patient declining blood transfusions unless it is life saving
   -repeat Hct tonight
   -guiac stool
   -patient has femoral a-line so RP bleed a consideration but she
   continues with improved hemodynamics
   Acute on chronic renal failure
   -renally dose medications
   ICU Care
   Nutrition: will re-evaluate dysphagia diet
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2196-1-13**] 02:00 PM
   Arterial Line - [**2196-1-14**] 06:00 PM to be removed today as it is
   femoral line
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: no need for PPI
   VAP: no longer intubated
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition : ICU today
   Total time spent:

2196-01-18 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - spoke with family and she agrees to blood transfusion if she
   "absolutely needs it."
   - stopped amio
   - continued lasix gtt with good diuresis
   - s&s to re-evaluate on tuesday
   - guaiac neg
   - gave trial of chlorothiazide for hyponatremia (FWD 2L)
   Allergies:
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-18**] 04:32 AM
   Metronidazole - [**2196-1-18**] 06:41 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-1-17**] 09:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-18**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.4
   HR: 69 (65 - 79) bpm
   BP: 103/67(76) {87/50(63) - 112/72(82)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
           Total In:
                                                                  1,349 mL
                                                                    392 mL
   PO:
                                                                    180 mL
           TF:
   IVF:
                                                                  1,019 mL
                                                                    342 mL
   Blood products:
                                                                    150 mL
                                                                     50 mL
   Total out:
                                                                  2,375 mL
                                                                  1,880 mL
   Urine:
                                                                  2,375 mL
                                                                  1,880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,026 mL
                                                                 -1,488 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, No response to noxious stimuli; + dolls eyes, + gag, +
   cornea
   Labs / Radiology
   220 K/uL
   7.4 g/dL
   94 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.0 mEq/L
   35 mg/dL
   112 mEq/L
   148 mEq/L
   22.8 %
   5.3 K/uL
        [image002.jpg]
                             [**2196-1-13**]  09:47 AM
                             [**2196-1-13**]  03:53 PM
                             [**2196-1-14**]  06:06 AM
                             [**2196-1-14**]  06:12 AM
                             [**2196-1-14**]  04:11 PM
                             [**2196-1-15**]  01:29 AM
                             [**2196-1-16**]  05:13 AM
                             [**2196-1-17**]  04:25 AM
                             [**2196-1-17**]  02:59 PM
                             [**2196-1-18**]  03:41 AM
   WBC
   11.9
   9.6
   11.5
   9.5
   5.3
   Hct
   23.2
   21.9
   26.1
   25.1
   25.4
   23.7
   21.6
   23.1
   22.8
   Plt
   107
   80
   105
   121
   220
   Cr
   2.1
   2.0
   2.0
   2.0
   2.0
   TropT
   0.15
   TCO2
   21
   Glucose
   99
   94
   106
   92
   94
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:18/34/0.15, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old female with a history of hypertension and urosepsis
   presenting with altered mental status, found to be hypotensive,
   bradycardic, and hyperkalemic in the setting of ARF.
   # Sepsis:  UA c/w UTI.  Met SIRS criteria hypothermia and bandemia and
   has cornybacterium in urine.   No other culture data.
   -- f/u urine culture from BIDNH, and [**Hospital1 1**] ED, - corynebacterium in
   urine here but likely contaminant
   -- blood cultures NGTD, but sputum cultures with multiple organisms on
   gram stain, f/u culture
   -- cont broad spectrum abx w/ vanc/zosyn
 completed the course
   yesterday.
   -- MAPs > 60
   -- off pressors for 36 hours
   -- cont to hold atenolol and Lisinopril
   #Respiratory failure:  Intubated in the setting of sepsis and for
   airway protection.
   - extubated since wednesday
   - continue to follow respiratory status
   # Bradycardia:  Likely secondary to hyperkalemia w/ peaked t waves and
   junctional bradycardia.  Also, may be secondary to atentolol toxicity
   in the setting of [**Last Name (un) 2406**].  Wouldn
t be surprised if has underlying sick
   sinus as well given advanced age.  Currently normal sinus w/o EKG
   abnormalities.
   -- hold atenolol
   -- continue potassium management as below.
   # Hyperkalemia: Now reversed with both acute membrane stabilization,
   temporary potassium shift, and resin binding.  Still mildly elevated,
   but improved
   -- Continue to follow closely, but only requires daily lytes, will give
   for K > 5.5
   -- Manage ARF as below.
   -- hold home potassium
   # [**Last Name (un) 2406**]:  Likely from volume depletion vs. secondary to pyelonephritis
   vs. ATN in the setting of hypotension (although would seem too early to
   develop.  FeNA of 0.27.  suspect some element of fluid overload vs. new
   baseline.  Will cont to diurese w/ lasix gtt today.
   -- renally dose meds
   -- avoid nephrotoxic meds
   -- hold lisinopril
   -- IVF/albumin PRN
   # Fluid Overload: pulmonary edema and lower extremity swelling on exam;
   cont lasix  gtt started, with goal of neg 1L with gentle diuresis.
   Will attempt IV boluses to see if blood pressures can tolerate so can
   be called out to regular floor.  Will check PM lytes.
   # C.Diff:  + for c.diff, starting iv flagyl for 14d course
   # NSTEMI:  Likely demand iscemia, no changes c/w ACS.
   -- ECHO without any wall motion abnormalities; normal EF
   ICU Care
   Nutrition: still seen to asp on diet resptritions.  Will minimize PO
   intake w/ S/S to re-eval tomorrow.
   Comments: Diabetic, renal dief
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2196-1-13**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  C/O today ; needs to be seen by PT

2196-01-18 07:58:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan. Please see resident note
   for updated PMH, SH, FH, ROS.
   HPI: [**Age over 90 **] yo woman admitted with septic shock requiring 3 pressors and
   presumed urinary source. Hospital course complicated by rapid atrial
   fibrillation.
   24 Hour Events:
 A-line d/c
Back in NSR
 Attempting diuresis w/lasix gtt
C diff positive
Pt would consider transfusion only if urgently necessary
   Allergies:
   Levofloxacin- Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-1-18**] 04:32 AM
 Now stopped
   Metronidazole - [**2196-1-18**] 06:41 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-1-17**] 09:59 PM
   Other medications:
   Insulin sliding scale, neutraphos, Albumin 25gm q8 x48hrs
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-18**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.4
   HR: 69 (65 - 79) bpm
   BP: 102/56(68) {87/50(63) - 112/72(82)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 97% 3L NC
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
           Total In:
                                                                  1,349 mL
                                                                    421 mL
   PO:
                                                                    180 mL
           TF:
   IVF:
                                                                  1,019 mL
                                                                    371 mL
   Blood products:
                                                                    150 mL
                                                                     50 mL
   Total out:
                                                                  2,375 mL
                                                                  2,120 mL
   Urine:
                                                                  2,375 mL
                                                                  2,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,026 mL
                                                                 -1,699 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 3L
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Elderly, chronically ill appearing F in NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, MMM
   Cardiovascular: Bradycardic, S1, S2, no RMG
   Peripheral Vascular: Warm, [**2-3**]+ bilateral LE edema, palpable DP bilat
   Respiratory / Chest: Symmetric, diminished bilaterally, soft bibasilar
   crackles L>R
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, responsive
   Labs / Radiology
   7.4 g/dL
   220 K/uL
   94 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.0 mEq/L
   35 mg/dL
   112 mEq/L
   148 mEq/L
   22.8 %
   5.3 K/uL
        [image002.jpg]
                             [**2196-1-13**]  09:47 AM
                             [**2196-1-13**]  03:53 PM
                             [**2196-1-14**]  06:06 AM
                             [**2196-1-14**]  06:12 AM
                             [**2196-1-14**]  04:11 PM
                             [**2196-1-15**]  01:29 AM
                             [**2196-1-16**]  05:13 AM
                             [**2196-1-17**]  04:25 AM
                             [**2196-1-17**]  02:59 PM
                             [**2196-1-18**]  03:41 AM
   WBC
   11.9
   9.6
   11.5
   9.5
   5.3
   Hct
   23.2
   21.9
   26.1
   25.1
   25.4
   23.7
   21.6
   23.1
   22.8
   Plt
   107
   80
   105
   121
   220
   Cr
   2.1
   2.0
   2.0
   2.0
   2.0
   TropT
   0.15
   TCO2
   21
   Glucose
   99
   94
   106
   92
   94
   Other labs: PT / PTT / INR:11.8/33.5/1.0, CK / CKMB /
   Troponin-T:18/34/0.15, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE
 Inubated for airway protection, now
   extubated x 2d.  Still on O2 via nasal cannula, persistent O2
   requirement likely [**2-2**] volume overload.  Diuresing well.
   - Lasix gtt, transition to IV bolus dose lasix
   - Goal I/O -1 to 1.5L as markedly volume up over admission
   - Albumin to facilitate diuresis
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 Likely urosepsis, although
   cultures unrevealing.
   - s/p 8 days of Zosyn
   - Stable off of pressors since Saturday
 Acute kidney injury
 Cr elevated from baseline of 1.0, improved
   somewhat.  Avoiding nephrotoxins, diuresing, follow lytes
   - Trend lytes, volume status
   - Hypernatremia
 Follow for now, may need free water repletion with
   diuresis.
 .H/O ANEMIA
 Stool heme negative, following Hct.
   - Transfuse for Hct ~21
 ATRIAL FIBRILLATION (AFIB)
 Now back in SR, has no prior history so
   will hold off on anticoagulation.
   - Holding home atenolol as bradycardic currently
 ALTERED MENTAL STATUS
 Improved
 HYPERKALEMIA
 Now resolved and hypokalemic with diuresis, repleting
 C Diff Colitis
 Will plan for 14 day course of flagyl from last day
   of Zosyn
   ICU Care
   Nutrition: Dysphagia diet with heavily thickened sips, still some
   concern for aspiration, nutrition consult pending
   Glycemic Control:  Follow fingersticks
   Lines:
   PICC Line - [**2196-1-13**] 02:00 PM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: Not needed
   VAP: N/A
   Comments:
   Communication:  Comments: with family
   Code status: Full code
   Disposition : Call out
   Total time spent: 30 minutes